US06306860B1
2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-[N-(2-methylpropyl)carbamoyl]pyridine
By the same procedure as described example 24, the synthesis was carried out starting with 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid and using isobutylamine. And then, the product was recrystallized with ethanol and hexane to give a desired compound.

reactant | 6-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]nicotinic acid | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C(=O)O)C=C1 | C18H21N5O3
reactant | isobutylamine | C(C(C)C)N | C4H11N
product | 2-[1-[3-(ethylamino)-2-pyridyl]piperazin-4-yl-carbonyl]-5-[N-(2-methylpropyl)carbamoyl]pyridine | Yield: 77% | C(C)NC=1C(=NC=CC1)N1CCN(CC1)C(=O)C1=NC=C(C=C1)C(NCC(C)C)=O | C22H30N6O2
